US07772271B2
Preparation of {4-[3-cyano-1-cyclopropyl-6-(tetrahydrofuran-2-yloxy)-2-yl]-phenyl}carbamic acid 1-cyclopropylethyl ester (compound 1444)
A mixture of 2-(4-aminophenyl)-1-cyclopropyl-6-(tetrahydrofuran-2-yloxy)indole-3-carbonitrile (36 mg, 0.1 mmol), 4-nitrophenylchloroformate (50 mg, 0.25 mmol) in pyridine (2.0 mL) is stirred at 35° C. for 2 h, followed by the addition of 1-cyclopropylethanol (98 μL, 1.0 mmol). The mixture is then stirred at 60° C. overnight and diluted with water (10 mL) and DCM (5 mL). The organic is washed with water (3×5 mL), HCl (2N, 3×5 mL), saturated NaHCO3 (3×5 mL) and chromatographed (silica gel, EtOAc/DCM, 0.5/9.5) to provide the title compound, {4-[3-cyano-1-cyclopropyl-6-(tetrahydrofuran-2-yloxy)indol-2-yl]phenyl}carbamic acid 1-cyclopropylethyl ester (32 mg, 68%).

reactant | 2-(4-aminophenyl)-1-cyclopropyl-6-(tetrahydrofuran-2-yloxy)indole-3-carbonitrile | 0.1 mmol, 36 mg | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC1OCCC1)C1CC1 | C22H21N3O2
reactant | 4-nitrophenylchloroformate | 0.25 mmol, 50 mg | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | 1-cyclopropylethanol | 1.0 mmol, 98 μL | C1(CC1)C(C)O | C5H10O
solvent | pyridine | 2.0 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 10 mL | O | H2O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | {4-[3-cyano-1-cyclopropyl-6-(tetrahydrofuran-2-yloxy)indol-2-yl]phenyl}carbamic acid 1-cyclopropylethyl ester | 32 mg, 68% | C1(CC1)C(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC1OCCC1)C1CC1)=O | C28H29N3O4
